US04328168
Employing a procedure similar to that described in Example I, 6.25 gms (0.05 mol) 1,4-dichlorobutene-2 and 8 gms (0.05 mol) diethylmalonate were condensed. The reaction was carried out in 50 mls benzene using 0.11 mol potassium hydroxide and 5 mol percent, based on the diethylmalonate, catalyst (dicyclohexano-18-crown-6). After the reactants were combined and the mild exotherm subsided, the reaction mixture was heated for about 4 hours to a maximum temperature of 83° C. Approximately 4 mls water was removed during the course of the reaction. Upon workup of the reaction mixture, 9.23 gms very light yellow-orange oil was recovered. Vacuum distillation of the crude product yielded pure diethyl 2-vinylcyclopropane-1,1-dicarboxylate in 61% yield. The distillation residue (1.52 gms), consisting primarily of dicyclohexano-18-crown-6, was retained for reuse.

reactant | 1,4-dichlorobutene-2 | 0.05 mol, 6.25 gms | C(/C=C/CCl)Cl | C4H6Cl2
reactant | diethylmalonate | 0.05 mol, 8 gms | C(C)C(C(=O)[O-])(C(=O)[O-])CC
reactant | benzene | 0.11 mol, 50 mls | C1=CC=CC=C1 | C6H6
reactant | dicyclohexano-18-crown-6 | C1CCC2C(C1)OCCOCCOC3CCCCC3OCCOCCO2 | C20H36O6
product | diethyl 2-vinylcyclopropane-1,1-dicarboxylate | 61% yield | C(=C)C1C(C1)(C(=O)OCC)C(=O)OCC | C11H16O4
